US06846832B2
g) 6-Methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one
A mixture of 3-(diphenyl-phosphinoyl)-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one (1.49 g, 3.1 mmol) in THF (40 mL) containing a solution of sodium hydroxide (2.5 M, 12.4 mL, 30.8 mmol) was heated under reflux for 14 h. The solution was then cooled to RT and water (40 mL) added. The mixture was extracted with diethyl ether and the combined organic extracts washed with water and brine. The organic layer was then dried over sodium sulphate, filtered and evaporated. The residue was then purified by chromatography (SiO2, Hexane:Acetone 6:4) to afford the title product (661 mg, 76%) as a light yellow solid. MS m/e=283.2 (M).

reactant | 3-(diphenyl-phosphinoyl)-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one | 3.1 mmol, 1.49 g | C1(=CC=CC=C1)P(=O)(C1N(C(C2=CC(=CC=C12)OC)=O)CC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C29H26NO4P
reactant | sodium hydroxide | 30.8 mmol, 2.5 M, 12.4 mL | [OH-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one | 661 mg, 76% | COC1=CC=C2CN(C(C2=C1)=O)CC1=CC=C(C=C1)OC | C17H17NO3
